* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0001 $N_0003  1k  
R_R3         0 $N_0003  1k  
V_V1         $N_0002 0 5V
