* Schematics Netlist *



V_V1         $N_0001 0 15V
R_R3         $N_0002 0  1.5k  
R_R1         $N_0001 $N_0003  1k  
R_R2         $N_0003 $N_0002  9.5k  
V_V2         $N_0004 0 6V
R_R6         0 $N_0004  8.5k  
R_R7         0 $N_0004  5.5k  
R_R5         0 $N_0004  4.0k  
