* Schematics Netlist *



R_R2         0 $N_0001  10  
R_R3         0 $N_0001  5  
R_R4         0 $N_0002  4  
R_R1         $N_0001 $N_0002  2  
I_I2         $N_0001 $N_0002 DC 12A  
I_I1         0 $N_0002 DC 6A  
